US08044076B2
A solution of 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazole (250 mg, 0.657 mmol) in 7 N NH3 in methanol (10 mL) is stirred at 60° C. for 16 h. The solvent is evaporated and the remaining residue is dried under HV to give 1-amino-3-{4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol (278 mg) as a beige oil; LC-MS: tR=0.86 min, [M+1]+=398.44.

reactant | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazole | 0.657 mmol, 250 mg | CC=1C=C(C=C(C1OCC1OC1)C)C1=NOC(=N1)C1=CC=C(C=C1)OC(C)C | C22H24N2O4
reactant | NH3 | 7 N | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 1-amino-3-{4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 278 mg | NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=CC=C(C=C1)OC(C)C)C)O | C22H27N3O4
